US07176242B2
3-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]methyl}-5-methylbenzoic acid
To a stirred solution of methyl 3-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]methyl}-5-methylbenzoate (170 mg, 0.50 mmol) in methanol (2 mL), tetrahydrofuran (1 mL), and water (1 mL) is added lithium hydroxide (211 mg, 5.0 mmol), and the reaction mixture stirred at room temperature for 2 h. The reaction mixture is concentrated under reduced pressure, dissolved in methylene chloride, filtered, and the filtrate concentrated under reduced pressure to provide the title compound. ESI MS m/z 264 [M+H]+.

reactant | methyl 3-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]methyl}-5-methylbenzoate | 0.50 mmol, 170 mg | COC[C@H]1N(CCC1)CC=1C=C(C(=O)OC)C=C(C1)C | C16H23NO3
reactant | water | 1 mL | O | H2O
reactant | lithium hydroxide | 5.0 mmol, 211 mg | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]methyl}-5-methylbenzoic acid | COC[C@H]1N(CCC1)CC=1C=C(C(=O)O)C=C(C1)C | C15H21NO3
